US07189738B2
5-Chloro-N-[1,3-dioxo-2-(4-piperidinyl)-2,3-dihydro-1H-isoindol-4-yl]-2-thiophenecarboxamide
50 ml of a mixture of TFA and water (9:1) are added dropwise to an ice-cooled mixture of 1.82 g (3.71 mmol) of tert-butyl 4-(4-{[(5-chloro-2-thienyl)carbonyl]-amino}-1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)tetrahydro-1(2H)-pyridine-carboxylate in 50 ml of chloroform. The ice-cooling is removed and the mixture is stirred at room temperature for 1.5 h and then concentrated. The residue is taken up in dichloromethane/methanol and washed with sat. sodium bicarbonate solution, dried over magnesium sulfate and concentrated. The crude product can be purified further by crystallization with ether. Yield: 1.185 g (78% of theory); MS (DCI, NH4): m/z (%)=390 (M+H, 100).

reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | water | O | H2O
reactant | tert-butyl 4-(4-{[(5-chloro-2-thienyl)carbonyl]-amino}-1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)tetrahydro-1(2H)-pyridine-carboxylate | 3.71 mmol, 1.82 g | ClC1=CC=C(S1)C(=O)NC1=C2C(N(C(C2=CC=C1)=O)C1CCN(CC1)C(=O)OC(C)(C)C)=O | C23H24ClN3O5S
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-Chloro-N-[1,3-dioxo-2-(4-piperidinyl)-2,3-dihydro-1H-isoindol-4-yl]-2-thiophenecarboxamide | ClC1=CC=C(S1)C(=O)NC1=C2C(N(C(C2=CC=C1)=O)C1CCNCC1)=O | C18H16ClN3O3S
